US07241887B2
8,8-Dimethoxy-3-(4-methoxy-benzyl)-3-aza-bicyclo[3.2.1]octane
8,8-Dimethoxy-3-(4-methoxy-benzyl)-3-aza-bicyclo[3.2.1]oct-6-ene (5.92 g, 20.5 mmol) was dissolved in EtOAc (50 mL) in a 250 mL Parr bottle. To this was added catalytic 20% Pd(OH)2/C (Pearlman's catalyst, 500 mg) and the mixture was shaken under 40 psi of H2 for 4 h or until judged complete by TLC. The reaction was filtered through a Celite pad and concentrated to a yellow oil (4.88 g, 82%). (TLC 5% MeOH/CH2Cl2, (NH3) Rf 0.60); 1H NMR (400 MHz, CDCl3) δ 7.21 (d, J=8.3 Hz, 2H), 6.81 (d, J=8.3 Hz, 2H), 3.76 (s, 3H), 3.43 (s, 2H), 3.21 (s, 3H), 3.15 (s, 3H), 2.48 (dd, J=10.3, 3.3 Hz, 2H), 2.36 (d, J=10.3 Hz, 2H), 2.02 (br s, 2H), 1.65 (m, 4H); GCMS m/z 291 (M)+.

reactant | 8,8-Dimethoxy-3-(4-methoxy-benzyl)-3-aza-bicyclo[3.2.1]oct-6-ene | 20.5 mmol, 5.92 g | COC1(C2CN(CC1C=C2)CC2=CC=C(C=C2)OC)OC | C17H23NO3
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
catalyst | Pd(OH)2/C | 500 mg | [OH-].[OH-].[Pd+2]
product | 8,8-Dimethoxy-3-(4-methoxy-benzyl)-3-aza-bicyclo[3.2.1]octane | COC1(C2CN(CC1CC2)CC2=CC=C(C=C2)OC)OC | C17H25NO3
